US08283353B2
4′-({4-[4-(2-hydroxy-2-methylpropoxy)phenyl]-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile
To a mixture of sodium hydride (0.020 g) and N,N-dimethylformamide (2 mL) was added 4′-{[4-(4-hydroxyphenyl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile (0.20 g) at 0° C. The mixture was stirred at 0° C. for 30 min, 2,2-dimethyloxirane (0.11 mL) was added, and the mixture was stirred at 90° C. for 24 hr. The reaction mixture was added to 1 M hydrochloric acid, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound as a colorless solid (0.14 g, 61%).

reactant | sodium hydride | 0.020 g | [H-].[Na+]
reactant | 4′-{[4-(4-hydroxyphenyl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 0.20 g | OC1=CC=C(C=C1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2 | C28H23N5O2
reactant | 2,2-dimethyloxirane | 0.11 mL | CC1(OC1)C | C4H8O
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 4′-({4-[4-(2-hydroxy-2-methylpropoxy)phenyl]-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile | 0.14 g, 61% | OC(COC1=CC=C(C=C1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2)(C)C | C32H31N5O3
